US08486952B2
2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) (100 mg, 0.353 mmol) and 1-methylpiperazine (39.2 μL, 0.353 mmol) were combined and purified as per Preparation Hb to give 2-chloro-7-(4-fluorophenyl)-4-(4-methylpiperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (109 mg, 0.314 mmol, 89% yield). LC-MS (M+H)+=347.2.

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.353 mmol, 100 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | 1-methylpiperazine | 0.353 mmol, 39.2 μL | CN1CCNCC1 | C5H12N2
product | 2-chloro-7-(4-fluorophenyl)-4-(4-methylpiperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.314 mmol, 109 mg, 89% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CCN(CC2)C | C18H20ClFN4
